US09212187B2
Synthesis of 7-[3-(4-chloro-2-oxo-3-phenyl-2H-quinolin-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
4-Chloro-3-phenyl-1H-quinoline-2-one(0.3 g) was suspended in DMF(6 ml). Sodium hydride (60% in oil) (51 mg) was added, and the mixture was stirred for 15 minutes at room temperature. 1-Ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.55 g) was added thereto and the mixture was stirred at room temperature for 7 days. The reaction mixture was poured to ice water(50 ml), and the generated insoluble matter was separated. The insoluble matter was dissolved in ethyl acetate. The liquid was dried over sodium sulfate and condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1→1:3). The purified product was condensed under reduced pressure, and the residue was recrystallized from ether, thereby obtaining the title compound(0.28 g) as a white powder.

reactant | 4-Chloro-3-phenyl-1H-quinoline-2-one | 0.3 g | ClC1=C(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H10ClNO
reactant | Sodium hydride | 51 mg | [H-].[Na+]
reactant | 1-Ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.55 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 7-[3-(4-chloro-2-oxo-3-phenyl-2H-quinolin-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.28 g | ClC1=C(C(N(C2=CC=CC=C12)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O)C1=CC=CC=C1 | C32H32ClN3O4
